US08252931B2
Potassium thiocyanate (156 g, 1600 mmol) is dissolved in acetic acid (1400 mL) and cooled to 0° C. 6-Bromo-pyridin-3-ylamine (50 g, 400 mmol) is dissolved in acetic acid (100 mL) and added dropwise over 10 min. Bromine (25 mL, 480 mmol) is dissolved in acetic acid (100 mL) and added dropwise over 10 min. The reaction is allowed to stir and warm to RT overnight. Acetic acid is removed via concentration. The resulting residue is poured into water (1 L) and adjusted to pH=7 with 1 N sodium hydroxide solution. This is extracted with ethyl acetate. Extracts are combined, washed with brine, and concentrated to a brown sludge. Recrystallization from methanol affords 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine as a brown solid: 1H NMR (400 MHz, DMSO-D6) δ 3.8 (s, 3 H) 6.7 (d, J=8.8 Hz, 1 H) 7.4 (s, 2 H) 7.6 (d, J=8.6 Hz, 1 H); LC/MS 182.3 (M+1), 180.4 (M−1).

reactant | Potassium thiocyanate | 1600 mmol, 156 g | [S-]C#N.[K+]
reactant | 6-Bromo-pyridin-3-ylamine | 400 mmol, 50 g | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | Bromine | 480 mmol, 25 mL | BrBr | Br2
reactant | acetic acid | 1400 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
